US08497273B2
2.3 4-Isopropyl-N-[5-piperazin-1-yl-pyridin-3-yl]-benzenesulfonamide x HCl
A mixture of N-[5-(4-benzylpiperazin-1-yl)-pyridin-3-yl]-4-isopropyl benzene sulfonamide (100 mg, 0.22 mmol) and 10% palladium on charcoal (10 mg) in methanol (20 ml) was hydrogenated at atmospheric pressure until the consumption of hydrogen was complete. After filtration and evaporation of the solvent under reduced pressure the residue was dissolved in water and 0.5 ml 1N HCl and was lyophilized to give 78 mg of the title compound.

reactant | N-[5-(4-benzylpiperazin-1-yl)-pyridin-3-yl]-4-isopropyl benzene sulfonamide | 0.22 mmol, 100 mg | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C25H30N4O2S
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 4-Isopropyl-N-[5-piperazin-1-yl-pyridin-3-yl]-benzenesulfonamide | 78 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC=C(C1)N1CCNCC1 | C18H24N4O2S
